US07279600B2
4′-Hydroxy-2-methyl-1,1′-biphenyl-4-carbaldehyde oxime
The title compound was prepared by reacting 4′-hydroxy-2-methyl-1,1′-biphenyl-4-carbaldehyde (350 mg, 1.65 mmol) with hydroxylamine hydrochloride (230 mg, 3.30 mmol) according to Method C to yield 360 mg (96%) of white solid: mp 169-171° C.;

reactant | 4′-hydroxy-2-methyl-1,1′-biphenyl-4-carbaldehyde | 1.65 mmol, 350 mg | OC1=CC=C(C=C1)C1=C(C=C(C=C1)C=O)C | C14H12O2
reactant | hydroxylamine hydrochloride | 3.30 mmol, 230 mg | Cl.NO
product | 4′-Hydroxy-2-methyl-1,1′-biphenyl-4-carbaldehyde oxime | OC1=CC=C(C=C1)C1=C(C=C(C=C1)C=NO)C | C14H13NO2
